Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo M with h/o ___, afib on coumadin, HTN, DM, 
prostate cancer s/p resection, esophageal cancer s/p radiation 
and recurrent UTIs who presents with chest pain.  
 The history was taken from the patient (poor historian) and 
confirmed with his wife. This morning he went for a stroll in 
his wheelchair. When he returned, he c/o substernal chest pain 
radiating to the back and both shoulders. He dozed off, and when 
he awoke about an hour later he again complained of CP. It was 
constant, nothing made it better or worse, and not associated 
with SOB, diaphoresis, abdominal pain, N/V. No weakness, 
numbness, tingling, fever, chills, cough. The wife noticed he 
ate less of his soup than normal today, but previously had been 
eating/drinking well. No diarrhea/constipation/dysuria. Of note, 
the patient had a stress test in ___ which was negative 
for inducible ischemia.  
 In the ED, initial vitals were: 97.5 80 72/29 16 98% RA  
 - Labs were notable for: WBC 3.2 w/ 78% PMNs, creatinine 2 
(baseline 1.3), lactate 2.2, troponon 0.03 (baseline), dirty UA, 
INR 2.4.  
 - CXR showed bibasilar atelectasis and MRA chest/abd was 
negative for aortic dissection but showed a 1.6cm hilar mass/LN. 
 
 - EKG showed sinus rhythm, rate 77, normal axis/intervals, no 
TWI or ST changes, similar to prior  
 Patient was given:  
 ___ 15:39 IVF 1000 mL NS 500 mL  
 ___ 17:05 IVF 1000 mL NS 500 mL  
 ___ 17:39 IV Morphine Sulfate 2 mg  
 ___ 19:56 PO/NG Carbidopa-Levodopa (___) 1 TAB  
 ___ 19:56 PO/NG Cephalexin 500 mg  
 ___ 19:56 PO/NG Sulfameth/Trimethoprim DS 1 TAB  
 ___ 19:56 PO Omeprazole 40 mg  
 ___ 19:56 PO/NG QUEtiapine Fumarate 12.5 mg  
 On the floor, the patient complains of itchy arms b/l but no 
chest, arm, or back pain. He c/o pain in his R knee, chronic, 
___bout 5 months ago.  
 Review of systems:   as above, otherwise negative in 6 systems.
 
 
Past Medical History:
___ DISEASE  
 ___ ESOPHAGUS with adenocarcinoma treated with radiation  

 therapy; follows with Dr. ___ at ___  
 DIABETES MELLITUS  
 HYPERTENSION  
 SLEEP APNEA CPAP  
 OSTEOARTHRITIS  
 SPINAL STENOSIS s/p laminectomy/decompression/diskectomy  
 H/O PROSTATE CANCER s/p TURP c/b urinary retention & frequency  

 LAPAROSCOPIC JEJUNOSTOMY TUBE PLACEMENT  
 Bilateral TKR  
 Kidney stones  
 Recurrent UTIs
 
Social History:
___
Family History:
History of cirrhosis in father/brother (alcohol use). History of 
DM, HTN. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 97.8 124/52 78 20 98% RA wt 86.7kg  
 General: Oriented x3 but somnolent, masked facies, rigid 
movements  
 HEENT: PERRL, MMM  
 Neck: Supple, JVP not elevated  
 CV: Regular rate and rhythm, SEM at RUSB  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present  

 GU: No foley  
 Skin: rash in armpits, groin  
 Ext: Increased tone in all extremities. He has decreased 
strength in the bilateral lower extremities which is baseline. 
Has healing wounds on left shin surrounded by mild erythema. 
Right leg with mild erythema. No edema b/l  

DISCHARGE PHYSICAL EXAM:
Vitals: T:98.2 BP:145/56 P:71 R:18 O2:99RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi. Chronic junky cough.  
CV: RRR, ___ systolic crescendo-decrescendo murmur best heard at 
RU sternal borders, heard throughout precordium. No radiation to 
the carotids.
Abdomen: Soft, non-tender, protruberent. Ventral hernia at the 
site of previous j-tube. 
Ext:  Warm, well perfused. Left shin has healing wound, 5cm, 
with mild surrounding erythema. ___ mildly erythematous 
bilaterally below the knee.
Neuro: CN II-XII intact and symmetric. Some difficulty tracking 
with eyes (saccadic movements, but range is intact). Masked 
facies. Pseudobulbar affect. Increased tone in all extremities. 
Right hand pill rolling tremor. Strength 4+/5 throughout. 
Sensation to light touch intact distally. 
 
Pertinent Results:
ADMISSION LABS:
___ 03:10PM BLOOD WBC-3.2* RBC-3.85* Hgb-10.8* Hct-33.7* 
MCV-88 MCH-28.1 MCHC-32.0 RDW-16.7* RDWSD-53.0* Plt ___
___ 03:10PM BLOOD Neuts-78.3* Lymphs-11.5* Monos-9.3 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-2.53# AbsLymp-0.37* 
AbsMono-0.30 AbsEos-0.01* AbsBaso-0.01
___ 03:10PM BLOOD Glucose-102* UreaN-38* Creat-2.0* Na-133 
K-6.5* Cl-103 HCO3-19* AnGap-18
___ 03:10PM BLOOD ALT-11 AST-42* AlkPhos-80 TotBili-0.2
___ 03:10PM BLOOD cTropnT-0.03

PERTINENT LABS:
___ 03:10PM BLOOD cTropnT-0.03*
___ 12:39AM BLOOD CK-MB-16* MB Indx-1.5 cTropnT-0.04*
___ 06:25AM BLOOD CK-MB-13* MB Indx-1.2 cTropnT-0.04*
___ 06:25AM BLOOD CK(CPK)-1112*
DISCHARGE LABS:
___ 06:25AM BLOOD WBC-3.4* RBC-3.40* Hgb-9.4* Hct-29.2* 
MCV-86 MCH-27.6 MCHC-32.2 RDW-16.5* RDWSD-51.6* Plt ___
___ 06:25AM BLOOD Glucose-95 UreaN-32* Creat-1.7* Na-139 
K-4.8 Cl-109* HCO3-21* AnGap-14

STUDIES:
___ MR ANGIOGRAM: 
No evidence of aortic dissection. The aorta and great vessels 
are grossly 
patent. There is a background of mild to moderate 
atherosclerosis. 
  
Measurements of the aorta include: 
Aortic root: 2.5 cm 
Proximal ascending: 3.6 cm 
Distal ascending: 3.8 cm 
Proximal arch: 3.1 cm 
Distal arch: 2.8 cm 
Mid descending: 2.7 cm 
Distal descending: 2.5 cm 
  
LUNGS: There is a 1.6 x 1.3 cm nodule in the right hilum, which 
may represent an enlarged lymph node versus mass. This is 
incompletely assessed in the current study. Additionally, there 
is mild bilateral dependent subsegmental atelectasis 
particularly involving the bases. No pleural effusion. Trace 
pericardial fluid. 
  
HEART AND MEDIASTINUM: Moderate cardiomegaly. No mediastinal 
lymphadenopathy. 
  
UPPER ABDOMEN: Small hiatal hernia. The imaged portion of the 
liver, spleen, and bilateral adrenals are unremarkable. The 
imaged pancreas is also within normal limits. The main 
pancreatic duct is not dilated. No evidence of intrahepatic or 
extrahepatic biliary ductal dilatation. The gallbladder is 
unremarkable. 
  
OSSEOUS STRUCTURES AND SOFT TISSUES: No worrisome osseous 
findings. 
  
IMPRESSION:  
  
1. No evidence of aortic dissection. 
2. Right hilar mass measuring up to 1.6 cm. Further evaluation 
with dedicated CT chest recommended. 
  
RECOMMENDATION(S): Right hilar mass measuring up to 1.6 cm. 
Further 
evaluation with dedicated CT chest recommended. 

___ CXR 
FINDINGS:  
Cardiac silhouette size is mildly enlarged but unchanged.  The 
mediastinal and hilar contours are similar.  Pulmonary 
vasculature is normal.  Streaky 
atelectasis is seen in the lung bases without focal 
consolidation.  No pleural effusion or pneumothorax is the 
benefit.  Degenerative changes are noted involving both 
acromioclavicular joints. 
IMPRESSION:  
Mild bibasilar atelectasis. 

MICROBIOLOGY: 
Urine cx pending

 
Brief Hospital Course:
Mr. ___ is an ___ year-old male with a past medical history 
significant for ___ Disease, Atrial Fibrillation on 
Coumadin, Esophageal Cancer, and Prostate Cancer. He presented 
with chest pain with a negative cardiac workup

# Chest pain: Pain began after spending time outside in his 
wheelchair, was sub-sternal and radiated to his shoulders, 
posterior neck, and head. He denied shortness of breath, nausea, 
vomiting, diaphoresis, weakness, fever, or chills. We performed 
a chest X-ray, MRI-MRA, and EKG, all of which showed no signs of 
acute coronary syndrome, acute pulmonary, or aortic disection. 
Cardiac enzymes trended x3. The etiology of his chest pain 
remains unclear, though ACS, PE (not pleuritic, no other 
symptoms), and aortic dissection are unlikely. Possibly muscle 
spasms vs esophageal spasm. His symptoms resolved within ___ 
hours without intervention. No changes in medications were made. 
Mr. ___ should follow up with his Primary Care Physician.

#  Right hilar mass vs enlarged lymph node: New finding seen on 
CT Chest/Abd in ED ___. Given his history of esophageal 
cancer and prostate cancer, should rule out 
malignancy/metastatic disease. He had a recent CT scan done by 
his outpatient oncologist that is not in our system. Should 
follow up with outpatient oncologist.

#  Elevated CK: Noticed while trending cardiac biomarkers. 
Unclear etiology. Potentially secondary to recent decreased 
physical activity and increased tremor. Please follow up.  

#  Leukopenia: Found to have new leukopenia of 3.2 on admission. 
Most likely due to his recent Sulfameth/Trimethoprim use. 
Another possibility is UTI, especially given his history of 
recurrent UTIs, however he is currently asymptomatic. Urine 
culture is pending. He has been leukopenic in the past in the 
setting of UTIs. Please repeat CBC and consider discontinuing 
Sulfameth/Trimethoprim if indicated. 
 
#  CKD: Creatinine chronically elevated per OMR. Was 2.0 on 
admission, now 1.7 after fluids. This mild elevation from his 
baseline is likely due to poor PO intake on day of admission. It 
is also unclear if he received contrast during his recent 
outpatient CT scan, in which case this elevation could be due to 
contrast induced nephropathy.

Chronic issues:

# ___ disease: Follows with neurology here. Continued 
home regimen of Carbidoba-levodopa and Seroquel.
  
# Afib on coumadin: Currently in sinus; not on a nodal agent or 
antiarrhythmic. Continue home regimen of Warfarin 5 mg PO daily  


# DM: Continued humalog 10 units Breakfast and 6 Units Dinner, + 
SSI  

# GERD: Continued omeprazole 20 mg PO BID  

# HTN: Continued lisinopril  

# HLD: Continued simvastatin 10 mg PO QPM  

# BPH: Continued tamsulosin  

Transitional issues:
- 1.6 cm hilar mass found incidentally on MRI. Family reports 
recent CT scan, which is not in our system. Please follow up and 
compare results. 
- Increased tremors, immobility, and falls since discontinuing 
pramipexole. Follow-up with Neurologist. 
- Patient reporting new abdominal discomfort associated with 
ventral hernia at LUQ, follow up with Primary Care Physician 
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Aspirin 81 mg PO EVERY OTHER DAY 
3. Carbidopa-Levodopa (___) 1 TAB PO TID 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. FoLIC Acid 1 mg PO DAILY 
6. Humalog 10 Units Breakfast
Humalog 6 Units Dinner
7. Lidocaine 5% Patch 1 PTCH TD QAM 
8. Lisinopril 20 mg PO DAILY 
9. Omeprazole 20 mg PO BID 
10. Simvastatin 10 mg PO QPM 
11. Tamsulosin 0.4 mg PO QHS 
12. Warfarin 5 mg PO DAILY16 
13. QUEtiapine Fumarate 12.5 mg PO BID 
14. calcium carbonate-vitamin D3 500 mg(1,250mg) -125 unit oral 
DAILY 
15. Sulfameth/Trimethoprim DS 1 TAB PO BID 
16. Cephalexin 500 mg PO Q6H 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Aspirin 81 mg PO EVERY OTHER DAY 
3. Carbidopa-Levodopa (___) 1 TAB PO TID 
4. Cephalexin 500 mg PO Q6H 
5. Cyanocobalamin 1000 mcg PO DAILY 
6. FoLIC Acid 1 mg PO DAILY 
7. Humalog 10 Units Breakfast
Humalog 6 Units Dinner
8. Lidocaine 5% Patch 1 PTCH TD QAM 
9. Omeprazole 20 mg PO BID 
10. QUEtiapine Fumarate 12.5 mg PO BID 
11. Simvastatin 10 mg PO QPM 
12. Sulfameth/Trimethoprim DS 1 TAB PO BID 
13. Tamsulosin 0.4 mg PO QHS 
14. Warfarin 5 mg PO DAILY16 
15. calcium carbonate-vitamin D3 500 mg(1,250mg) -125 unit oral 
DAILY 
16. Lisinopril 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
Chest Pain 
 
Secondary: 
___ disease 
Atrial fibrillation 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ for an episode of chest pain. You had 
an MRI of your chest, an ECG of your heart and lab tests that 
were all reassuring and suggested that you did not have a heart 
attack. Unfortunately, we are unsure about what caused this 
episode of pain. However, we are reassured by the fact that it 
went away on its own and didn't come back. Please follow up with 
your primary doctor. If these symtoms come back, please seek 
medical care.
  
As part of your workup,  we got an MRI of your chest and 
abdomen. We found a small mass near the ___ your chest. We 
are unsure about the significance of this mass since we do not 
have other recent images. We will let your oncologist know about 
these images and you can follow up with him. 

Thank you for allowing us to be a part of your care. 

Sincerely, 

Your ___ team
 
Followup Instructions:
___